US06429214B1
[7-(3-tert-Butoxycarbonylaminopropoxy)-1-benzyl-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]acetic acid methyl ester
The title compound is prepared using the procedure of Example 75 and (1-benzyl-7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester in place of 7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)acetic acid and (3-bromopropyl)carbamic acid tert-butyl ester in place of (2-bromoethyl)carbamic acid tert-butyl ester.

reactant | (1-benzyl-7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | COC(CC1C(N(C2=CC(=CC=C2C1)O)CC1=CC=CC=C1)=O)=O | C19H19NO4
reactant | (3-bromopropyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [7-(3-tert-Butoxycarbonylaminopropoxy)-1-benzyl-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]acetic acid methyl ester | COC(CC1C(N(C2=CC(=CC=C2C1)OCCCNC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C27H34N2O6
